US06339045B1
Production of N-(4-methylphenyl)-4-methoxy-6-(3-methylphenoxy)-2-pyridine carboxamide (compound No. I-28)
2.0 g (0.0075 mol) of 2,6-dibromo-4-methoxy pyridine was dissolved in about 30 ml of diethyl ether. While cooling the solution in a dry ice-acetone bath in an argon atmosphere, 6.0 ml of a 1.6M-hexane solution of BuLi (0.0075×1.3 mol) was added thereto, followed by stirring the solution for about 10 minutes. After 2.0 g (0.0075×2.0 mol) of 4-methyl phenyl isocyanate dissolved in about 5 ml of diethyl ether was added to the reaction solution, the solution was removed from the bath and stirred at room temperature for about 40 minutes. The reaction solution was mixed with about 10 ml of a 1.2N-aqueous hydrochloric acid solution, and then distributed in ethyl acetate-saturated sodium bicarbonate water, followed by washing with saturated brine. The organic phase of the obtained solution was dried with anhydrous sodium sulfate, concentrated and subjected to silica gel column chromatography (eluting solution: ethyl acetate/hexane) to separate a main fraction therefrom. The fraction was concentrated and then precipitated with hexane, thereby obtaining an aimed product.

reactant | 2,6-dibromo-4-methoxy pyridine | 0.0075 mol, 2.0 g | BrC1=NC(=CC(=C1)OC)Br | C6H5Br2NO
reactant | hexane | CCCCCC | C6H14
reactant | BuLi | 1.3 mol | [Li]CCCC
reactant | 4-methyl phenyl isocyanate | 2.0 mol, 2.0 g | CC1=CC=C(C=C1)N=C=O | C8H7NO
reactant | diethyl ether | about 30 ml | C(C)OCC | C4H10O
reactant | diethyl ether | about 5 ml | C(C)OCC | C4H10O
product | N-(4-methylphenyl)-4-methoxy-6-(3-methylphenoxy)-2-pyridine carboxamide | CC1=CC=C(C=C1)NC(=O)C1=NC(=CC(=C1)OC)OC1=CC(=CC=C1)C | C21H20N2O3
